US09238640B2
To a solution of 2-amino-4,6-dimethyl-benzoic acid (0.35 g, 2.08 mmol) in anhydrous THF (10 mL) was added EDCl (0.80 g, 4.17 mmol), HOBt (0.80 g, 5.22 mmol) and N-methyl-morpholine (0.7 mL, 6.24 mmol). The reaction mixture was stirred at room temperature for 30 minutes, then ammonium hydroxide (50% v/v, 2.5 mL) was added. The mixture was stirred at room temperature for 17 hours. The solvent was removed under reduced pressure. Water (50 mL) was added, and the mixture was extracted with dichloromethane (2×100 mL). The combined organic phase was washed with water, and dried over anhydrous Na2SO4. Removal of the solvent gave the crude product. The crude product was purified by column chromatography (silica gel 230-400 mesh; 3% methanol in dichloromethane as eluent) to give 2-amino-4,6-dimethyl-benzamide. Yield: 0.20 g (59%).

reactant | 2-amino-4,6-dimethyl-benzoic acid | 2.08 mmol, 0.35 g | NC1=C(C(=O)O)C(=CC(=C1)C)C | C9H11NO2
reactant | EDCl | 4.17 mmol, 0.80 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 5.22 mmol, 0.80 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methyl-morpholine | 6.24 mmol, 0.7 mL | CN1CCOCC1 | C5H11NO
reactant | ammonium hydroxide | 2.5 mL | [OH-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-amino-4,6-dimethyl-benzamide | NC1=C(C(=O)N)C(=CC(=C1)C)C | C9H12N2O
